US09145433B2
6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)pyrido[3,2-d]pyrimidin-4 (3H)-one (100 mg, 0.28 mmol), phosphonitrilic chloride (100 mg, 0.28 mmol) and as stir bar were transferred to a vial, capped and placed under nitrogen atmosphere. Dry acetonitrile (3 mL) was transferred and allowed the contents to stir at room temperature. i-Pr2NEt was added for 2 min to the heterogeneous slurry. Upon stirring the red homogeneous slurry for 2 h, nitrogen balloon was replaced with NH3 balloon and stirred. After stirring the contents for 6 h, the reaction mixture was concentrated and the crude residue was partitioned between chloroform/water. Organic layer was removed and re-extracted the aqueous layer with chloroform. Usual workup and purification by preparative HPLC provided 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)pyrido[3,2-d]pyrimidin-4-amine (16 mg) as a white solid.

reactant | 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)pyrido[3,2-d]pyrimidin-4 (3H)-one | 0.28 mmol, 100 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N=CNC(C2N1)=O | C18H10ClFN4O
reactant | phosphonitrilic chloride | 0.28 mmol, 100 mg | N1=P(N=P(N=P(N=P1(Cl)Cl)(Cl)Cl)(Cl)Cl)(Cl)Cl | Cl8N4P4
reactant | i-Pr2NEt | CCN(C(C)C)C(C)C | C8H19N
reactant | NH3 | N | H3N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)pyrido[3,2-d]pyrimidin-4-amine | 16 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N=CN=C(C2N1)N | C18H11ClFN5
